US06329370B1
4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-difluoromethoxy-2H-phthalazin-1-one (Compound 53)
A solution of 3-(3,5-dichloro-pyridin-4-ylmethylen)-6-difluoromethoxy-3H-isobenzofuran-1-one (14.4 g, 21 mmoles), prepared as described in example 97, in CH3OH (100 ml), under N2, was added with acetic acid (3.6 ml, 63 mmoles) and hydrazine monohydrate (3.15 ml, 63 mmoles). A precipitate formed and the mixture was refluxed for 2 hours. After 1 night to stand the mixture was cooled over ice and the solid filtered and washed with little CH3OH. After drying under vacuum at 50° C., 6.64 g of the title compound were obtained [yield: 85% from (5-difluoromethoxy-3-oxo-1,3-dihydro-isobenzofuran-1-yl)-triphenyl-phosphonium bromide].

reactant | 3-(3,5-dichloro-pyridin-4-ylmethylen)-6-difluoromethoxy-3H-isobenzofuran-1-one | 21 mmoles, 14.4 g | ClC=1C=NC=C(C1C=C1OC(C2=CC(=CC=C12)OC(F)F)=O)Cl | C15H7Cl2F2NO3
reactant | acetic acid | 63 mmoles, 3.6 ml | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 63 mmoles, 3.15 ml | O.NN
solvent | CH3OH | 100 ml | CO | CH4O
product | 4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-difluoromethoxy-2H-phthalazin-1-one | 6.64 g, yield: 85% | ClC=1C=NC=C(C1CC1=NNC(C2=CC(=CC=C12)OC(F)F)=O)Cl | C15H9Cl2F2N3O2
